US04265890
Following the procedures outlined in Example 2 the 7,8-dihydroxy-3-methyl-6-trifluoromethyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide is treated with 2,3-dichloro-5,6-dicyano-1,4-benzoquinone to give the 7,8-dione which is then reacted with, for example, thiophenol to yield 7,8-dihydroxy-3-methyl-6-phenylthio-9-trifluoromethyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide.

reactant | 7,8-dihydroxy-3-methyl-6-trifluoromethyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC1=C(C2=C(CCN(CC2)C)C=C1O)C(F)(F)F
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 7,8-dihydroxy-3-methyl-6-phenylthio-9-trifluoromethyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC1=C(C2=C(CCN(CC2)C)C(=C1O)C(F)(F)F)SC1=CC=CC=C1 | InChI=1S/C18H18F3NO2S.BrH/c1-22-9-7-12-13(8-10-22)17(25-11-5-3-2-4-6-11)16(24)15(23)14(12)18(19,20)21;/h2-6,23-24H,7-10H2,1H3;1H
